* C:\Users\mdotg\Documents\GitHub\Lab\Lab 2\Spice sim\LM324.asc
XU1 vin N002 vcc 0 N003 LM324
XU2 vref N006 vcc 0 N005 LM324
XU3 N004 N001 vcc 0 vout LM324
XU4 N007 vref vcc 0 vref LM324
V1 vcc 0 5v
R1 N001 N003 10k
R2 vout N001 10k
R3 N004 N005 10k
R5 N002 N003 15k
R6 N002 N006 15k
R7 N005 N006 15k
R4 vref N004 10k
V3 vin P001 SINE(0 1V 100Hz) AC 250mV
R8 vcc N007 47k
R9 N007 0 27k
V2 P001 0 1.8V
R10 N002 N006 1.5k
.lib LM324.ti.lib
.ac dec 1000 5Khz 50kHz
.meas AC gain PARAM V(vout)/V(vin)
* Ricordarsi di plottare V(vout)/V(vin)
* .tran 10ms
.backanno
.end
