* C:\Users\mdotg\Documents\GitHub\Lab\Lab 2\Spice sim\LM324.asc
XU1 vref N002 vcc 0 N003 LM324
XU2 vin N006 vcc 0 N005 LM324
XU3 N004 N001 vcc 0 vout LM324
XU4 N007 vref vcc 0 vref LM324
V1 vcc 0 5v
R1 N001 N003 20K
R2 vout N001 20K
R3 N004 N005 20K
R5 N002 N003 20K
R6 N002 N006 1.81k
R7 N005 N006 20K
R4 vref N004 20K
V3 vin P001 SINE(0 20mV 100kHz) AC 50mV
R8 vcc N007 47K
R9 N007 0 27k
V2 P001 0 1.83V
.lib LM324.ti.lib
.ac dec 1000 1Khz 50kHz100us
.meas AC gain PARAM V(vout)/V(vin)
* Ricordarsi di plottare V(vout)/V(vin)
* .ac dec 1000 1Khz 50kHz
* .tran 10ms
.backanno
.end
